US04328355
The hydroxyl group is protected by treating 3.6 parts of 3-methyl-3-hydroxy-5-phenyl-1-pentyne in 15 parts by volume of dimethylformamide successively with 3.5 parts of imidazole and 4.0 parts of triethylsilyl chloride and stirring this mixture for 1 hour at room temperature. The reaction mixture is poured into ether/water and the ethereal layer is washed with water three times, dried over anhydrous sodium sulfate, and then the ether is removed at reduced pressure. Distillation of the residual oil provides 3-methyl-5-phenyl-3-triethylsilyloxy-1-pentyne.

reactant | 3-methyl-3-hydroxy-5-phenyl-1-pentyne | CC(C#C)(CCC1=CC=CC=C1)O | C12H14O
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | triethylsilyl chloride | C(C)[Si](CC)(CC)Cl | C6H15ClSi
solvent | ether water | CCOCC.O
product | 3-methyl-5-phenyl-3-triethylsilyloxy-1-pentyne | CC(C#C)(CCC1=CC=CC=C1)O[Si](CC)(CC)CC | C18H28OSi
